US05734051
1,3-Di-n-butyl-8-acetamido Xanthine
1.3-Di-n-butyl-8-amino xanthine (0.5 g), hydrochloride in toluene (30 ml) was stirred for 30 minutes with triethylamine (0.16 g). After addition of acetic anhydride (0.32 g), the mixture was refluxed for 6 hours. The reaction mixture was extracted with water (4×30 ml), the organic layer separated and dried over anhydrous sodium sulphate. The solvent was then evaporated to yield the product, yield 0.1 g (20%), mpt. 180° C.

reactant | 1.3-Di-n-butyl-8-amino xanthine | 0.5 g | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)N)CCCC | C13H21N5O2
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.32 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Di-n-butyl-8-acetamido Xanthine | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)NC(C)=O)CCCC | C15H23N5O3
